US04457931
(a) Ethyl 2-(4-(2-Pyridyl)-1-piperazinyl)propionate
A mixture of 1-(2-pyridyl)piperazine (15.0 grams; 0.092 moles), ethyl 2-bromopropionate (16.7 grams; 0.092 moles) and potassium carbonate (12.7 grams; 0.092 moles) in absolute ethanol (150 cc) is boiled under reflux for about three hours. After cooling, the mixture is filtered, the filtrate is allowed to evaporate and finally the residue is distilled under vacuo, giving the product, b.p. 130°-132° C. (0.01 mm); Rf=0.37 (from ethyl acetate); IR (neat) νmax: 1730, 1600, 1490, 1440, 1320, 1250, 1160, 985, 780 cm-1.

reactant | 1-(2-pyridyl)piperazine | 0.092 moles, 15.0 grams | N1=C(C=CC=C1)N1CCNCC1 | C9H13N3
reactant | ethyl 2-bromopropionate | 0.092 moles, 16.7 grams | BrC(C(=O)OCC)C | C5H9BrO2
reactant | potassium carbonate | 0.092 moles, 12.7 grams | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 150 cc | C(C)O | C2H6O
product | Ethyl 2-(4-(2-Pyridyl)-1-piperazinyl)propionate | N1=C(C=CC=C1)N1CCN(CC1)C(C(=O)OCC)C | C14H21N3O2
